US05541343
(3S,5S)-5-[(7-Amidino-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone
0.3 g of (3S,5S)-5-[(7-amidino-9-keto-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone are dissolved in 7 ml of glacial acetic acid, 0.05 g of 10% palladium charcoal are added and the mixture is hydrogenated for 6 hours at 70° C. under 3 bar of hydrogen pressure. The catalyst is filtered off, the filtrate is evaporated down and the product is purified by chromatography on silica gel (eluent: tetrahydrofuran/2N acetic acid=10:1)

reactant | (3S,5S)-5-[(7-amidino-9-keto-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone | 0.3 g | C(N)(=N)C1=CC=C2C=3C=CC(=CC3C(C2=C1)=O)OC[C@@H]1C[C@H](C(N1CCCC1=CC=CC=C1)=O)CC(=O)O | C30H29N3O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
catalyst | palladium charcoal | 0.05 g | [Pd] | Pd
product | (3S,5S)-5-[(7-Amidino-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone | C(N)(=N)C1=CC=C2C=3C=CC(=CC3CC2=C1)OC[C@@H]1C[C@H](C(N1CCCC1=CC=CC=C1)=O)CC(=O)O | C30H31N3O4
